US07776864B2
Step 3: 1-[4-(dimethoxymethyl)phenyl]-3-(dimethylamino)-2-phenylprop-2-en-1-one
5 g 1-[4-(dimethoxymethyl)phenyl]-2-phenylethanone and 4.43 g N,N-dimethylformamid dimethylacetal are stirred for 18 h at 100° C. in DMF. The solvent is removed and the crude product used without further purification.

reactant | 1-[4-(dimethoxymethyl)phenyl]-2-phenylethanone | 5 g | COC(C1=CC=C(C=C1)C(CC1=CC=CC=C1)=O)OC | C17H18O3
reactant | N,N-dimethylformamid dimethylacetal | 4.43 g | COC(N(C)C)OC | C5H13NO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[4-(dimethoxymethyl)phenyl]-3-(dimethylamino)-2-phenylprop-2-en-1-one | COC(C1=CC=C(C=C1)C(C(=CN(C)C)C1=CC=CC=C1)=O)OC | C20H23NO3
